US07947835B2
Nicotinic acid (1.0 g; 7.3 mmol) is dissolved in a mixture of water (10 mL) and conc. H2SO4 (0.5 mL) with stirring. tert-Butyl carboxylic acid is added, and the resulting crystalline slurry stirred under nitrogen. Catalytic AgNO3 and ammonium persulfate (140 mg; 0.61 mmol) are then added, the flask wrapped in aluminum foil to shield from light and the reaction heated to 90° C. for 3 hr. The reaction is cooled to 0° C., basified to pH 10 and extracted with EtOAc (4×50 mL). The pooled organic layers are washed with saturated sodium carbonate (2×50 mL) and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting oil is purified by flash chromatography over silica gel to provide 6-tert-butyl-nicotinic acid (1.1 g) as a white solid.

reactant | Nicotinic acid | 7.3 mmol, 1.0 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | tert-Butyl carboxylic acid | C(C)(C)(C)C(=O)O | C5H10O2
reactant | ammonium persulfate | 0.61 mmol, 140 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 10 mL | O | H2O
solvent | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
solvent | aluminum | [Al] | Al
catalyst | AgNO3 | [N+](=O)([O-])[O-].[Ag+]
product | 6-tert-butyl-nicotinic acid | 1.1 g | C(C)(C)(C)C1=NC=C(C(=O)O)C=C1 | C10H13NO2
